US06083986
A solution of a benzamide (2 parts) in DMF is treated with NaH (2 parts) and the reaction is stirred until gas evolution ceases. To the reaction is added 1,2-epoxy-6-nitroindane (1 part) and the reaction is stirred over night at 60° C. The reaction is poured into ice-water and extracted with CH2Cl2. The organic extracts are washed with water, dried, and the solvent evaporated. The residue is chromatographed to obtain trans-1-benzamido-2-hydroxy-6-nitroindane. To a solution of the nitroindane (1 part) in a mixture of pyridine (16 parts), 4-dimethylaminopyridine (0.15 parts) and an inert organic solvent such as THF or CH2Cl2, acetyl chloride (1.2 parts) is added dropwise. After several hours, the reaction is treated with cold water and the organic layer separated. The organic solution is washed with cold 1 N HCL, the organic layer dried, and the solvent is evaporated to give trans-1-benzamidoamido-2-acetoxy-6-nitroindane. Processing of this protected indane as in Preparation 2 provides the trans-1-benzamido-2-hydroxy-6-carboxamido-indane.

reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | NaH | [H-].[Na+]
reactant | 1,2-epoxy-6-nitroindane | O1C2C1CC1=CC=C(C=C21)[N+](=O)[O-] | C9H7NO3
solvent | DMF | CN(C)C=O | C3H7NO
product | trans-1-benzamido-2-hydroxy-6-nitroindane | C(C1=CC=CC=C1)(=O)N[C@H]1[C@@H](CC2=CC=C(C=C12)[N+](=O)[O-])O | C16H14N2O4
